Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
___ Complaint:
endometrial cancer
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, pelvic and ___ lymph node 
dissection, cystoscopy

 
History of Present Illness:
Ms.  ___ is a ___ woman who initially presented with  
postmenopausal bleeding. 
She had a pelvic ultrasound that showed a thickened endometrial 
lining measuring approximately 10.3 mm.  She had a subsequent 
endometrial biopsy which showed endometrial adenocarcinoma, 
predicted FIGO grade 1.  The results of that endometrial biopsy
were reviewed again at ___ which confirmed the likely 
diagnosis.

She was referred to ___ gynecology ___ clinic for 
consultation regarding a new diagnosis of endometrial cancer. 
After counseling, she agreed with the plan to proceed with 
surgical staging. 
 
Past Medical History:
PMH:
-History of left DCIS in ___: Status post left wide excision of
the mass, denies any chemotherapy or radiation therapy, 
including
tamoxifen use, patient states that she was checked for BRCA1/2
and was negative
-Eczema
-Fibromyalgia
-Chronic sinus infections
-Palpitations secondary to anxiety
-Epistaxis
-History of thromboembolic disorder in the setting of OCP use,
patient states she had a TIA and the oral contraceptives were
stopped subsequently
-Asthma
-Depression

PSH:
-status post a left wide excision of a breast mass in ___
-Tubal ligation, ___
-Denies anesthesia complications.

HCM:
- Last mammogram: ___, per patient normal
- Last colonoscopy: ___, per patient normal
- Last bone density scan: ___, per patient normal

POBHx: Gravida 2 para 2
-___, spontaneous vaginal delivery, breech presentation
-___, spontaneous vaginal delivery, tight nuchal cord

PGYNHx: Denies history of STIs, gynecological diagnoses such a
fibroids, endometriosis, gynecological malignancies, GYN 
surgical
procedures, procedures of the cervix, abnormal PAP smear, 
- LMP:   Postmenopausal since ___
- Last Pap Smear:   ___, normal
- Hx of abnormal PAP: Denies
- STDs: Denies
- GYN procedures: denies
- ___: unknown
- Has used oral contraceptive pills in the remote past for
approximately ___ months, discontinued for subsequent TIA
- Hormone replacement therapy: Used for ___ years, stopped
approximately ___ years ago
 
Social History:
___
Family History:
-Mother diagnosed with cervical cancer
-Maternal uncle with bone cancer
-Family history of diabetes, high blood pressure, cardiac 
disease
-Denies any family history of breast cancer, uterine cancer,
ovarian cancer
-Denies family history of bleeding or clotting disorders. 

 
Physical Exam:
On day of discharge:

Gen: No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing a total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, bilateral pelvic lymph node dissection, 
aortic lymph node dissection, cystoscopy. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV pain 
medicatinos. Her diet was advanced without difficulty and she 
was transitioned to oral pain medications. On post-operative day 
#1, her urine output was adequate so her Foley catheter was 
removed with a successful voiding trial. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 7.5 mg PO DAILY 
2. Ranitidine 150 mg PO DAILY 
3. Montelukast 10 mg PO DAILY 
4. Fluticasone Propionate 110mcg ___ PUFF IH BID:PRN shortness 
of breath or wheezing 
5. Citalopram 40 mg PO DAILY 
6. ipratropium-albuterol ___ mcg/actuation inhalation BID:PRN 


 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
Do not exceed 4000 mg in 24 hours 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg ___ 
tablet(s) by mouth every six (6) hours Disp #*50 Tablet 
Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Take with narcotics to prevent constipation 
RX *docusate sodium [Col-Rite] 100 mg 1 capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*2 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
Take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Do not drive while taking, may cause drowsiness 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Citalopram 40 mg PO DAILY  
6.  Fluticasone Propionate 110mcg ___ PUFF IH BID:PRN shortness 
of breath or wheezing  
7.  ipratropium-albuterol ___ mcg/actuation inhalation 
BID:PRN  
8.  Lisinopril 7.5 mg PO DAILY  
9.  Montelukast 10 mg PO DAILY  
10.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometrial cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
Laparoscopic instructions:  
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (Tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) until 
cleared by Dr. ___
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
 
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.   
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.

 
Followup Instructions:
___